US04560691
To a stirred mixture containing 6.57 g of 5-(3-aminophenyl)-1,6-naphthyridin-2(1H)-one dihydrochloride monohydrate and 63 ml of pyridine was added dropwise over a period of 5 minutes 4.8 ml of acetic anhydride. The resulting mixture was stirred at room temperature overnight. The reaction mixture was concentrated on a rotary evaporator to dryness. The residue was slurried with water; and, the solid was collected, washed with water and dried in a vacuum oven at 90° C. to yield 5.4 g of 5-(3-acetylaminophenyl)-1,6-naphthyridin-2(1H)-one monohydrate, m.p. 258°-262° C.

reactant | 5-(3-aminophenyl)-1,6-naphthyridin-2(1H)-one dihydrochloride monohydrate | 6.57 g | O.Cl.Cl.NC=1C=C(C=CC1)C1=C2C=CC(NC2=CC=N1)=O
reactant | acetic anhydride | 4.8 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 63 ml | N1=CC=CC=C1 | C5H5N
product | 5-(3-acetylaminophenyl)-1,6-naphthyridin-2(1H)-one monohydrate | 5.4 g | O.C(C)(=O)NC=1C=C(C=CC1)C1=C2C=CC(NC2=CC=N1)=O | InChI=1S/C16H13N3O2.H2O/c1-10(20)18-12-4-2-3-11(9-12)16-13-5-6-15(21)19-14(13)7-8-17-16;/h2-9H,1H3,(H,18,20)(H,19,21);1H2
